US05744621
1-1) Preparation of 2-amino-3-methyl-1-phenylbutane hydrochloride
To a solution of 13.8 g(0.2 mol) of isobutyronitrile dissolved in 50 ml of absolute tetrahydrofuran(THF) was added 2.0M solution of benzyl magnesium chloride(110 ml, 0.22 mol) at room temperature. The reaction mixture was refluxed for 1 hour and then cooled to room temperature. 200 ml of methanol and 11.4 g(0.3 mol) of NaBH4 were added to the resulting solution and the whole mixture was stirred at room temperature for 1 hour.The reaction was quenched by adding 300 ml of 1N hydrochloric acid and the solvent was removed by distillation under a reduced pressure. The reactionmixture was adjusted to pH 11 with 1N NaOH solution, extracted with chloroform, dried over anhydrous Na2SO4, and 50 ml of 5N hydrochloric acid in methanol was added thereto. The resulting solution was purified by column chromatography using dichloromethane: methanol(10:1) as an eluent to give 37.5 g of the title compound(yield:94%).

reactant | isobutyronitrile | 0.2 mol, 13.8 g | C(C(C)C)#N | C4H7N
reactant | benzyl magnesium chloride | 0.22 mol, 110 ml | C(C1=CC=CC=C1)[Mg]Cl
reactant | NaBH4 | 0.3 mol, 11.4 g | [BH4-].[Na+]
solvent | methanol | 200 ml | CO | CH4O
product | 2-amino-3-methyl-1-phenylbutane hydrochloride | 37.5 g, yield:94% | Cl.NC(CC1=CC=CC=C1)C(C)C | InChI=1S/C11H17N.ClH/c1-9(2)11(12)8-10-6-4-3-5-7-10;/h3-7,9,11H,8,12H2,1-2H3;1H
